US07713994B2
To a solution of (4Z)-6-bromo-4-({[(7-hydroxy-2,2-dimethyl-1,3-benzodioxol-5-yl)methyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione (30 mg, 67 μmol) in N,N-dimethylformamide (0.5 mL) is added pyridine (12 μL, 0.17 mmol) and acetyl chloride (10 μL). The reaction mixture is shaken overnight at room temperature and then purified by reverse-phase high performance liquid chromatography to give 6-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2,2-dimethyl-1,3-benzodioxol-4-yl acetate.

reactant | (4Z)-6-bromo-4-({[(7-hydroxy-2,2-dimethyl-1,3-benzodioxol-5-yl)methyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 67 μmol, 30 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC2=C(OC(O2)(C)C)C(=C1)O | C20H17BrN2O5
reactant | pyridine | 0.17 mmol, 12 μL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 10 μL | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 6-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2,2-dimethyl-1,3-benzodioxol-4-yl acetate | C(C)(=O)OC1=CC(=CC=2OC(OC21)(C)C)CN\C=C\2/C(NC(C1=CC=C(C=C21)Br)=O)=O | C22H19BrN2O6
